US07238689B2
0.63 g of m-chloroperbenzoic acid (purity: 70%, 2.6 mmoles) was added, with ice-cooling, to a solution of 0.4 g (1.0 mmoles) of 3-(5-chloro-1-phenyl-3-trifluoromethyl-1-H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline dissolved in 15 ml of chloroform. The mixture was stirred at room temperature for 22 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with chloroform. The resulting organic layer was washed with an aqueous sodium hydrogensulfite solution, an aqueous sodium hydrogencarbonate solution and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The resulting crystals were washed with hexane to obtain 0.4 g (yield: 83.2%) of 3-(5-chloro-1-phenyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylsulfonyl)-5,5-dimethyl-2-isoxazoline as white crystals (melting point: 132 to 133° C.).

reactant | m-chloroperbenzoic acid | 2.6 mmoles, 0.63 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-(5-chloro-1-phenyl-3-trifluoromethyl-1-H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 1.0 mmoles, 0.4 g | ClC1=C(C(=NN1C1=CC=CC=C1)C(F)(F)F)CSC1=NOC(C1)(C)C | C16H15ClF3N3OS
reactant | water | O | H2O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-chloro-1-phenyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylsulfonyl)-5,5-dimethyl-2-isoxazoline | 0.4 g, yield: 83.2% | ClC1=C(C(=NN1C1=CC=CC=C1)C(F)(F)F)CS(=O)(=O)C1=NOC(C1)(C)C | C16H15ClF3N3O3S
